US08461185B2
N-[(1R)-1-(5-Fluoro-1-oxidopyridin-2-yl)ethyl]-3-(5-methylpyridin-2-yl)-5-[(5S)-5-pyridin-2-yl-4,5-dihydroisoxazol-3-yl]benzamide
To a solution of 3-(5-methylpyridin-2-yl)-5-[(5S)-5-pyridin-2-yl-4,5-dihydroisoxazol-3-yl]benzoic acid (50.0 mg, 0.12 mmol) in N,N-dimethylformamide (1 mL) were added (1R)-1-(5-fluoro-1-oxidopyridin-2-yl)ethanamine hydrochloride salt (33.4 mg, 0.17 mmol), EDC (33.3 mg, 0.17 mmol), HOAT (7.9 mg, 0.06 mmol) and triethylamine (0.11 mL, 0.81 mmol). The reaction mixture was stirred at ambient temperature for 1.5 h. The reaction mixture was heated to 50° C. After 20 min, the mixture was cooled to ambient temperature and the solid in the reaction was filtered off. Purification by reverse phase chromatography (C-18, 95% water/acetonitrile→65% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (46 mg). HRMS 498.1954 (M+1). 1H NMR (400 MHz, CDCl3): δ 8.56 (d, J=4.8 Hz, 1H); 8.48 (s, 1H); 8.46-8.35 (m, 3H); 8.15-8.08 (m, 2H); 7.73-7.65 (m, 2H); 7.54 (t, J=8.9 Hz, 2H); 7.34 (t, J=7.8 Hz, 1H); 7.20 (dd, J=7.7, 4.8 Hz, 1H); 7.06 (ddd, J=8.8, 6.6, 2.4 Hz, 1H); 5.86 (dd, J=10.9, 6.9 Hz, 1H); 5.58-5.48 (m, 1H); 3.92-3.74 (m, 2H); 2.35 (s, 3H); 1.70 (d, J=7.0 Hz, 3H).

reactant | 3-(5-methylpyridin-2-yl)-5-[(5S)-5-pyridin-2-yl-4,5-dihydroisoxazol-3-yl]benzoic acid | 0.12 mmol, 50.0 mg | CC=1C=CC(=NC1)C=1C=C(C(=O)O)C=C(C1)C1=NO[C@@H](C1)C1=NC=CC=C1 | C21H17N3O3
reactant | (1R)-1-(5-fluoro-1-oxidopyridin-2-yl)ethanamine hydrochloride salt | 0.17 mmol, 33.4 mg | Cl.FC=1C=CC(=[N+](C1)[O-])[C@@H](C)N
reactant | EDC | 0.17 mmol, 33.3 mg
reactant | HOAT | 0.06 mmol, 7.9 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | triethylamine | 0.81 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | N-[(1R)-1-(5-Fluoro-1-oxidopyridin-2-yl)ethyl]-3-(5-methylpyridin-2-yl)-5-[(5S)-5-pyridin-2-yl-4,5-dihydroisoxazol-3-yl]benzamide | 46 mg | FC=1C=CC(=[N+](C1)[O-])[C@@H](C)NC(C1=CC(=CC(=C1)C1=NO[C@@H](C1)C1=NC=CC=C1)C1=NC=C(C=C1)C)=O | C28H24FN5O3
